US05830901
A mixture of 4-picoline (15.6 ml, 161 mmol) and 4-fluorobenzaldehyde (20 g, 161 mmol) in acetic anhydride (125 ml) was heated at reflux overnight. The reaction was cooled and the solvent evaporated. Water (100 ml) was added to the residue, and the mixture stirred at room temperature for 30 minutes. Saturated sodium carbonate solution (100 ml) and ethyl acetate (150 ml) were then added, and stirring continued for a further 30 minutes. The two phases were separated, and the aqueous phase extracted with ethyl acetate (3×200 ml). The combined organic phases were dried (MgSO4) and evaporated. The residue was purified by flash chromatography, eluting with 50% ethyl acetate/petrol (60°-80°). The appropriate fractions were combined and concentrated to yield (E)-4-[2-(4-fluorophenyl)ethenyl]pyridine (19 g, 60%) as a beige solid. δH (CDCl3) 6.93 (1H, d, J 16.3 Hz, ArCHCH), 7.05-7.13 (2H, m, ArH), 7.26 (1H, d, J 16.3 Hz, ArCHCH), 7.34-7.36 (2H, m, ArH), 7.48-7.54 (2H, m, ArH) and 8.56-8.60 (2H, m, ArH).

reactant | 4-picoline | 161 mmol, 15.6 ml | N1=CC=C(C=C1)C | C6H7N
reactant | 4-fluorobenzaldehyde | 161 mmol, 20 g | FC1=CC=C(C=O)C=C1 | C7H5FO
solvent | acetic anhydride | 125 ml | C(C)(=O)OC(C)=O | C4H6O3
product | (E)-4-[2-(4-fluorophenyl)ethenyl]pyridine | 19 g, 60% | FC1=CC=C(C=C1)/C=C/C1=CC=NC=C1 | C13H10FN
